### PR TITLE
[Merged by Bors] - feat: `↑(Nat.log m n) = Ordinal.log ↑m ↑n`

### PR DESCRIPTION
**Pull request by Komyyy**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 1]
```diff
@@ -529,6 +530,16 @@ theorem iSup_pow_natCast {o : Ordinal} (ho : 0 < o) : ⨆ n : ℕ, o ^ n = o ^ 
...
 
+@[simp, norm_cast]
+lemma natCast_log (m n : ℕ) : (↑(Nat.log m n) : Ordinal.{u}) = log ↑m ↑n := by
+  obtain (hm | hm) := le_or_gt m 1
+  case inl => rw_mod_cast [Nat.log_of_left_le_one hm, log_of_left_le_one (mod_cast hm)]
+  obtain (rfl | hn) := eq_or_ne n 0
+  case inl => simp
+  rw_mod_cast [eq_comm, log_eq_iff (mod_cast hm) (mod_cast hn),
+    and_iff_right (mod_cast m.pow_log_le_self hn), succ_eq_add_one, ← Nat.log_lt_iff_lt_pow hm hn]
+  apply lt_add_one
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Exponential.lean]: If you add the following lemma:
```lean 4
@[norm_cast]
theorem succ_natCast (n : ℕ) : Order.succ (n : Ordinal) = n + 1 :=
  rfl
```
you can simplify the last step a bit:
```suggestion
  rw_mod_cast [eq_comm, log_eq_iff (mod_cast hm) (mod_cast hn), ← Nat.log_eq_iff (.inr ⟨hm, hn⟩)]
```
It feels very weird to have a disjunctive as an assumption to `Nat.log_eq_iff`. Perhaps that's something to be fixed?

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 2]
```diff
@@ -529,6 +530,16 @@ theorem iSup_pow_natCast {o : Ordinal} (ho : 0 < o) : ⨆ n : ℕ, o ^ n = o ^ 
 @[deprecated (since := "2025-12-25")]
 alias iSup_pow := iSup_pow_natCast
 
+@[simp, norm_cast]
+lemma natCast_log (m n : ℕ) : (↑(Nat.log m n) : Ordinal.{u}) = log ↑m ↑n := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Exponential.lean]:
```suggestion
lemma natCast_log (m n : ℕ) : Nat.log m n = log m n := by
```

Comment (Komyyy) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: This is intentional.

I think coercions should be written explicitly when it's a `norm_cast` lemma.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: I think that just causes visual clutter. But if you want to keep the coercions, this works too: `↑(Nat.log m n) = log ↑m ↑n`

Comment (Komyyy) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: OK, I've rewritten to `↑(Nat.log m n) = Ordinal.log ↑m ↑n`.

File: Mathlib/SetTheory/Ordinal/Exponential.lean (hunk 1 above)
Comment (Komyyy) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: Good golf! Thank you!

**Review by vihdzp — APPROVED** [review]
Besides the explicit casts for which I'd like a second opinion, this LGTM.

File: Mathlib/SetTheory/Ordinal/Exponential.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: > If you add the following lemma:
> 
> ```lean
> @[norm_cast]
> theorem succ_natCast (n : ℕ) : Order.succ (n : Ordinal) = n + 1 :=
>   rfl
> ```

I was under the impression that we were moving away from using `Order.succ` in `Ordinal` in favor of `+ 1`?

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: We are. And this lemma helps `norn_cast` do the same.

Comment (plp127) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: The point is that this lemma would introduce a `Order.succ` on `Ordinal` when there was none before, so it seems counterproductive to the effort of moving away from it.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: wdym? we aren't getting rid of the `SuccOrder` instance on `Ordinal`. We're ensuring that `Order.succ x` gets simplified as `x + 1`, and this lemma makes it so that `norm_cast` can perform that simplification, at least for natural numbers.

Comment (plp127) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: Wouldn't this simplify `Nat.cast n + 1` to `Order.succ (Nat.cast n)` when running `norm_cast`?

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: I was hoping it would do the exact opposite... could someone check?

Comment (plp127) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: Since `push_cast` and `norm_cast` use the same lemmas in opposite directions, it wouldn't help to reverse it either.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: @Komyyy could you rewrite the proof avoiding this lemma, then? I wasn't aware of how `norm_cast` worked.

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 3]
```diff
@@ -6,6 +6,7 @@ Authors: Mario Carneiro, Floris van Doorn, Violeta Hernández Palacios
 module
 
 public import Mathlib.SetTheory.Ordinal.Family
+public import Mathlib.Data.Nat.Log
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Exponential.lean:8]:
```suggestion
public import Mathlib.Data.Nat.Log
public import Mathlib.SetTheory.Ordinal.Family
```

**Review by vihdzp — APPROVED** [review]

File: Mathlib/SetTheory/Ordinal/Exponential.lean (hunk 1 above)
Comment (Komyyy) [reply Mathlib/SetTheory/Ordinal/Exponential.lean]: Sorry for the late reply, I've been busy lately.

There are three kinds of `norm_cast` lemmas: `elim`, `move`, and `squash`.
The lemmas used in the reversed direction are `move` and `squash` lemmas. `elim` is forward-only.

`Ordinal.succ_natCast` is an `elim` lemma, so `Nat.cast n + 1` isn't simplified to `Order.succ (Nat.cast n)`:
```lean4
example (n : ℕ) : (Nat.cast n + 1 : Ordinal) = sorry := by
  norm_cast0
  -- ⊢ ↑(n + 1) = sorry
```

However, it seems undesirable to add such an influential `norm_cast` lemma in this PR.
I dropped the `Order.succ` use in `Ordinal.log_eq_iff`. This is reasonable and compact change.

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 4]
```diff
@@ -519,6 +520,14 @@ theorem iSup_pow_natCast {o : Ordinal} (ho : 0 < o) : ⨆ n : ℕ, o ^ n = o ^ 
 @[deprecated (since := "2025-12-25")]
 alias iSup_pow := iSup_pow_natCast
 
+@[simp, norm_cast]
+lemma natCast_log (m n : ℕ) : ↑(Nat.log m n) = Ordinal.log ↑m ↑n := by
+  obtain (hm | hm) := le_or_gt m 1
+  case inl => rw_mod_cast [Nat.log_of_left_le_one hm, log_of_left_le_one (mod_cast hm)]
+  obtain (rfl | hn) := eq_or_ne n 0
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Exponential.lean]: FYI this works
```suggestion
  obtain rfl | hn := eq_or_ne n 0
```

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 5]
```diff
@@ -519,6 +520,14 @@ theorem iSup_pow_natCast {o : Ordinal} (ho : 0 < o) : ⨆ n : ℕ, o ^ n = o ^ 
 @[deprecated (since := "2025-12-25")]
 alias iSup_pow := iSup_pow_natCast
 
+@[simp, norm_cast]
+lemma natCast_log (m n : ℕ) : ↑(Nat.log m n) = Ordinal.log ↑m ↑n := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Exponential.lean:524]: I'm not sure about the direction of the simp lemma. Surely the LHS is simpler?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/SetTheory/Ordinal/Exponential.lean (hunk 5 above)
Comment (Komyyy) [reply Mathlib/SetTheory/Ordinal/Exponential.lean:524]: Many simp lemmas have the same rule, e.g. [`Nat.cast_add`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Cast/Defs.html#Nat.cast_add) and [`Nat.cast_mul`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Cast/Basic.html#Nat.cast_mul).

Comment (b-mehta) [reply Mathlib/SetTheory/Ordinal/Exponential.lean:524]: I agree it feels a little odd but it's consistent and can't be too harmful, so let's go with it

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
